US07098226B2
3-[N-(2-Cyclohexylethyl)amino]propionamide hydrochloride (Intermediate No. 6-1)
Next, a 4 N solution of hydrogen chloride in 1,4-dioxane (3.1 ml) was added to 3-[N-(t-butoxycarbonyl)-N-(2-cyclohexylethyl)amino]propionamide (0.37 g, 1.2 mmol), and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, diisopropyl ether was added to the resulting solid, and the solid was filtered off to give 0.30 g (quantitatively) of the titled compound as colorless crystals.

reactant | hydrogen chloride | Cl | ClH
reactant | 3-[N-(t-butoxycarbonyl)-N-(2-cyclohexylethyl)amino]propionamide | 1.2 mmol, 0.37 g | C(C)(C)(C)OC(=O)N(CCC1CCCCC1)CCC(=O)N | C16H30N2O3
solvent | 1,4-dioxane | 3.1 ml | O1CCOCC1 | C4H8O2
product | 3-[N-(2-Cyclohexylethyl)amino]propionamide hydrochloride | Cl.C1(CCCCC1)CCNCCC(=O)N | InChI=1S/C11H22N2O.ClH/c12-11(14)7-9-13-8-6-10-4-2-1-3-5-10;/h10,13H,1-9H2,(H2,12,14);1H
